US06420538B1
STAGE C: [8R-(8.alpha.,9.alpha,10.beta)]-10-methoxy-6-oxaspiro[4.5]decane-7.8,9-triol
157 ml of a 1.5 M solution of dibutylaluminium hydride in toluene is added at −5° C. to a solution containing 56 g of the product of the previous stage and 300 ml of THF. Agitation is carried out at −3° C. for 1 hour. 1 liter of a 1 M solution of sodium potassium tartrate is added. Agitation is carried out for 15 minutes at ambient temperature. The reaction medium is extracted with an ethyl acetate-heptane 1-1 mixture followed by washing with water, salt water, drying and evaporating to dryness. The residue obtained is agitated at 70° C. in the presence of 150 ml of a solution of sulphuric acid 0.1 N and 150 ml of water for 2.5 hours. The reaction medium is cooled down to ambient temperature, barium carbonate is added, and agitation is carried out for 1 hour at ambient temperature followed by filtering and evaporating to dryness. 49 g of the sought product is obtained.

reactant | dibutylaluminium hydride | [H-].C(CCC)[Al+]CCCC
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | sulphuric acid | 0.1 N | S(O)(O)(=O)=O | H2O4S
reactant | barium carbonate | C([O-])([O-])=O.[Ba+2]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 150 ml | O | H2O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 10-methoxy-6-oxaspiro[4.5]decane-7.8,9-triol | 49 g | COC1C(C(C(OC12CCCC2)O)O)O | C10H18O5
